US04144047
Preparation of 3-(m-Chlorophenyl)-4,5-Isothiazoledicarboxylic Acid.
Dimethyl 3-(m-chlorophenyl)-4,5-isothiazoledicarboxylate (14.51 g. 0.0504 mol) was hydrolyzed as given above with NaOH (10.08 g. 0.252 mol) and then acidified with HCl. The purified yellow solid had m.p. 185°-6° with decomposition (rapid heating of the sample produced normal decomposition in this temperature range; slow heating caused a color change to red and m.p. 217.5°-218.5° with decomposition. Infrared of material heated slowly to 190° showed that it was 3-(m-chlorophenyl)-4-isothiazolecarboxylic acid).

reactant | Dimethyl 3-(m-chlorophenyl)-4,5-isothiazoledicarboxylate | 0.0504 mol, 14.51 g | ClC=1C=C(C=CC1)C1=NSC(=C1C(=O)OC)C(=O)OC | C13H10ClNO4S
reactant | NaOH | 0.252 mol, 10.08 g | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | 3-(m-chlorophenyl)-4-isothiazolecarboxylic acid | ClC=1C=C(C=CC1)C1=NSC=C1C(=O)O | C10H6ClNO2S
product | 3-(m-Chlorophenyl)-4,5-Isothiazoledicarboxylic Acid | ClC=1C=C(C=CC1)C1=NSC(=C1C(=O)O)C(=O)O | C11H6ClNO4S
